US07345056B2
A two-liter, 2-neck flask, an overhead stirrer and an addition funnel were used. Glutaraldehyde (100 mL, 50% aq. solution) was placed in the flask. Water (63 mL) was added. 36.5 grams of 1,3-acetonedicarboxylic acid were added. Some bubbling was observed. NaOAc (14.25 g) was added and the mixture was stirred vigorously. A solution of benzylamine hydrochloride (35.6 g) in 112 mL of water was placed in the addition funnel. Alternatively it may be advantageous to dissolve the benzylamine hydrochloride in 80 mL of water and 30 mL of 0.12 N aqueous HCl, instead of 112 mL of H2O. The amine solution was added to the reaction mixture portionwise. Foaming and bubbling was observed. A dark yellow, sticky solid formed. The reaction mixture was allowed to stir overnight. Methylene chloride (500 mL) was added, followed by K2CO3 which was added until the pH ˜8. The layers were separated and the aqueous layer was extracted with CH2Cl2 (500 mL). The combined organic layers were passed through 300 mL of basic alumina and dried over MgSO4. The solution was then passed through 1.2 L of silica gel. The silica gel was washed with 300 mL of CH2Cl2 after which the silica gel was eluted with 2000 mL of 5% MeOH in CH2Cl2. The combined organic layers were concentrated by rotary evaporation to afford 26.9 g (47% yield) of 9-benzyl-9-azabicyclo[3.3.1-]nonan-3-one as a pale yellow solid. The pale yellow solid was dissolved in THF and 4 N HCl in dioxane was added to obtain the hydrochloride salt as a white precipitate. NB. This is a modification of a procedure found in: G. Gonzalez Trigo, Anales de Quimica, 1979, 782-783.

reactant | Glutaraldehyde | 100 mL | C(CCCC=O)=O | C5H8O2
reactant | 1,3-acetonedicarboxylic acid | 36.5 grams | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | NaOAc | 14.25 g | CC(=O)[O-].[Na+]
reactant | benzylamine hydrochloride | 35.6 g | Cl.C(C1=CC=CC=C1)N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 112 mL | O | H2O
solvent | water | 80 mL | O | H2O
solvent | HCl | 0.12 N, 30 mL | Cl | ClH
solvent | H2O | 112 mL | O | H2O
solvent | Water | 63 mL | O | H2O
solvent | Methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 9-benzyl-9-azabicyclo[3.3.1-]nonan-3-one | 26.9 g, 47% yield | C(C1=CC=CC=C1)N1C2CC(CC1CCC2)=O | C15H19NO
